US07897607B2
1-(2,4-Dimethylphenyl)-4-(heptan-4-yl)-7-oxo-4,7-dihydro-1H-imidazo[4,5-b]pyridine-6-carboxylic acid
To 0.60 g (1.2 mmol) of ethyl 2-[4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carbonyl]-3-(heptan-4-ylamino)acrylate in 10 mL of NMP was added 0.15 g (3.7 mmol) of sodium hydride (60% dispersion in mineral oil). The mixture was stirred at room temperature for 1 h and subsequently heated to 140° C. for 25 min. The reaction mixture was cooled to room temperature, quenched with 2 mL of saturated ammonium bicarbonate, diluted with ten volumes of water and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried over sodium sulfate, filtered and the resulting filtrate was concentrated to an oil. The oil was purified by flash chromatography eluting with a 3% methanol/dichloromethane mixture to give 0.12 g of the title compound as a light yellow solid. Dirty fractions were combined, concentrated and purified to give an additional 0.15 g of the title compound. The overall yield of the title compound was 0.27 g (57%).

reactant | ethyl 2-[4-bromo-1-(2,4-dimethylphenyl)-1H-imidazole-5-carbonyl]-3-(heptan-4-ylamino)acrylate | 1.2 mmol, 0.60 g | BrC=1N=CN(C1C(=O)C(C(=O)OCC)=CNC(CCC)CCC)C1=C(C=C(C=C1)C)C | C24H32BrN3O3
reactant | sodium hydride | 3.7 mmol, 0.15 g | [H-].[Na+]
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 1-(2,4-Dimethylphenyl)-4-(heptan-4-yl)-7-oxo-4,7-dihydro-1H-imidazo[4,5-b]pyridine-6-carboxylic acid | 0.12 g | CC1=C(C=CC(=C1)C)N1C=NC=2N(C=C(C(C21)=O)C(=O)O)C(CCC)CCC | C22H27N3O3
